US07718653B2
To a suspension of 4-nitro-1H-indazole (10 g, 61.30 mmol) and potassium carbonate (9.32 g, 67.43 mmol) in DMF (100 mL) at 25° C. was added 4-methoxybenzyl chloride (9.14 mL, 67.43 mmol). The resulting mixture was stirred at 110° C. for 2 hours. The reaction mixture was cooled and diluted with water. The aqueous layer was extracted with DCM (2×100 mL). The organic layer was dried over MgSO4, filtered and concentrated. The residue was purified by flash chromatography on silica gel eluting with 0 to 2% ethyl acetate in dichloromethane. The solvent was evaporated to dryness to afford 1-(4-methoxybenzyl)-4-nitro-1H-indazole (9.00 g, 51.8%) as a orange solid. NMR Spectrum: (DMSOd6) 3.70 (s, 3H), 5.73 (s, 2H), 6.87 (d, 2H), 7.25 (d, 2H), 7.65 (dd, 1H), 8.17 (d, 1H), 8.34 (d, 1H), 8.54 (s, 1H).

reactant | 4-nitro-1H-indazole | 61.30 mmol, 10 g | [N+](=O)([O-])C1=C2C=NNC2=CC=C1 | C7H5N3O2
reactant | potassium carbonate | 67.43 mmol, 9.32 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methoxybenzyl chloride | 67.43 mmol, 9.14 mL | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-(4-methoxybenzyl)-4-nitro-1H-indazole | 9.00 g, 51.8% | COC1=CC=C(CN2N=CC3=C(C=CC=C23)[N+](=O)[O-])C=C1 | C15H13N3O3
